US05061706
A solution of 0.8 g (3.03 mmol) 4-ethoxalylamino-5-nitrophthalonitrile in 50 ml dimethylformamide was hydrogenated at atm. pressure by using 25 mg 5% Pd-C as a catalyst. When the hydrogen uptake had ceased, the reaction mixture was filtered and evaporated in vacuo. The residue was recrystallized (dimethylformamide-water) to give 0.4 g (66%) of 6,7-dicyano-1-hydroxy-quinoxaline-2,3(1H,4H)-dione. M.p. decomp. 1H-NMR (DMSO-d6): 7.97 (1H, s), 7.57 (1H, s). MS (m/e): 228 (M+, 80%).

reactant | 4-ethoxalylamino-5-nitrophthalonitrile | 3.03 mmol, 0.8 g | C(=O)(C(=O)OCC)NC=1C=C(C(C#N)=CC1[N+](=O)[O-])C#N | C12H8N4O5
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | Pd-C | 25 mg | [Pd] | Pd
product | 6,7-dicyano-1-hydroxy-quinoxaline-2,3(1H,4H)-dione | 0.4 g, 66% | C(#N)C=1C=C2NC(C(N(C2=CC1C#N)O)=O)=O | C10H4N4O3
